US05350762
1,2,3,4-Tetrahydro-4-methyl-2-[(dimethylamino)methyl]cyclopent [b]indole-7-ol
In a 500 ml Parr hydrogenation bottle was suspended 0.5 g of 10% Pd/C in 50 ml of ethyl alcohol. To this was added a solution of 1,2,3,4-tetrahydro-7-phenylmethoxy-N,N,4-trimethylcyclopent[b]indole-2-methanamine (2.3 g, 0.007 mole) in 200 ml of ethyl alcohol. After shaking at 50° C. under 50 psi hydrogen for two hours, the mixture was cooled and filtered, and the filtrate concentrated to a tan solid, 1.5 g, m.p. 110° C.

reactant | 1,2,3,4-tetrahydro-7-phenylmethoxy-N,N,4-trimethylcyclopent[b]indole-2-methanamine | 0.007 mole, 2.3 g | C1(=CC=CC=C1)COC1=CC=2C3=C(N(C2C=C1)C)CC(C3)CN(C)C | C22H26N2O
reactant | hydrogen | [H][H] | H2
solvent | ethyl alcohol | 50 ml | C(C)O | C2H6O
solvent | ethyl alcohol | 200 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 1,2,3,4-Tetrahydro-4-methyl-2-[(dimethylamino)methyl]cyclopent [b]indole-7-ol | CN1C2=C(C=3C=C(C=CC13)O)CC(C2)CN(C)C | C15H20N2O
